US03932498
A. o-(β-Hydroxyethoxy)-thioanisole
o-Hydroxythioanisole (14.1 g., 0.1 mole) is dissolved in sodium ethoxide (6.8 g., 0.1 mole) in absolute ethanol (100 ml.) and stirred as β-hydroxyethyl chloride (8.1 g., 0.1 mole) is added. The reaction mixture is refluxed for 2 hours and cooled. The o-(β-hydroxyethoxy)-thioanisole is extracted.

reactant | o-Hydroxythioanisole | 0.1 mole, 14.1 g | OC1=C(C=CC=C1)SC | C7H8OS
reactant | sodium ethoxide | 0.1 mole, 6.8 g | [O-]CC.[Na+]
reactant | β-hydroxyethyl chloride | 0.1 mole, 8.1 g | OCCCl | C2H5ClO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | o-(β-Hydroxyethoxy)-thioanisole | OCCOC1=C(C=CC=C1)SC | C9H12O2S
